Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / Altace / 
fenofibrate / clindamycin
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
PCP: ___
. 
CC: inability to go home, falls
. 
HPI/EVENTS: ___ h/o HTN, HLD, CAD s/p PCI, PAF, mod AS, pulm 
HTN, recent falls admitted due to inability to go home alone.  
Ms. ___ husband has been admitted to the ___ 
for dysphagia. He largely looks after her especially in light of 
her recent falls (x2 in past month) and unstable L knee 
(requiring knee brace).  She requires a walker and needs 
assistance with ADLs.  She does not have any family in the area 
(daughter in ___ and has no other support system.  She was 
admitted for further mgmt.   Notes R shoulder pain s/p fall.  No 
other complaints 

ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
A 10 pt review of sxs was otherwise negative.

 
Past Medical History:
# HTN - not currently on any medications for this 
# HLD - not currently on any medication
# Paroxysmal Atrial Fibrillation
# Rheumatic Fever and Scarlet Fever
# Pulmonary HTN
# Mod-Severe Aortic Stenosis 
# CAD s/p PCI OM1 3.0 x 13 mm Velocity stent and r-PL 3.0 x 13
mm Velocity stent ___
# AAA 3.1 cm
# Syncope ___ s/p four rib fractures 
# Cystic lesions in pancreatic tail most likely representing 
IPMNs
# Recurrent UTIs (Klebsiella and E. Coli) c/b urosepsis ___ 
# Overactive Bladder
# Hx of C. Diff Colitis/sepsis ___ without any recurrence
(three month hospitalization/prolonged ICU stay) 
# Macular Degeneration right eye 
# Left hip replacement ___
# Left knee replacement x 2 and right knee replacement x 1 
# Osteopenia
# GERD
# ? Cholangitis
# Cholecystectomy
# ___ DVT ___ after delivering her daughter 
# ___ rotator cuff injury s/p fall in ___ ___ 

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Vital Signs: 97.9  104/60  98  16  95% on RA
glucose: 
. 
GEN: NAD, well-appearing, lying in bed
EYES: PERRL, EOMI, conjunctiva clear, anicteric
ENT: dry mucous membranes, no exudates 
NECK: supple 
CV: RRR s1s2 nl, III/VI SEM LUSB, no r/g
PULM: CTA, no r/r/w 
GI: normal BS, NT/ND, no HSM  
EXT: warm, no c/c/e, legs in ACE bandage, L leg in full brace.  
___ node's in bil hand
SKIN: no rashes 
NEURO: alert, oriented x 3, answers ? appropriately, follows 
commands, non focal
PSYCH: appropriate
ACCESS: None
FOLEY: absent

EXam on discharge: unchanged
 
Pertinent Results:
None
 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ h/o HTN, HLD, CAD s/p PCI, PAF, mod AS, 
pulm HTN, recent falls admitted due to inability to go home 
alone as unable to perform ADLs.

# Fall
The patient has had two mechanical falls in the last month. She 
is currently wearing a knee imobilizer. She was able to ambulate 
independently with her walker while hospitalized and was seen by 
___ who recommened she be discharged home with help from a friend 
or family member. The patient's pain was controled on tylenol.

# Cardiovascular:
Paroxysmal atrial fibrillation
-Continued on amiodarone and aspirin
Moderate-severe AS
-Continued on Furosemide, patient reports she is no longer on 
imdur

# H/O recurrent UTI
Continued methenamine and microdantin

Transitional issues:
The patient was discharged home with a friend as her husband 
remains hospitalized.
 
Medications on Admission:
- Tylenol-Codeine #3 2 Tablet 4x/day PRN
- Amiodarone 200 mg daily
- Furosemide 20 mg daily
- Isosorbide mononitrate ER 15 mg daily
- methenamine hippurate 1 gram tablet BID
- Prilosec 20 mg daily 
- ascorbic acid 1,000 mg tablet BID
- ASA 81 mg Daily
- calcium carbonate 600 mg (1,500 mg) 2 tabs Daily 
- colace 100 mg BID
- FeSO4 325 mg Daily
- Acidophilus capsule. 1 caps daily
- Centrum Silver one Tablet Daily
- Fiber-Caps 0.52 gram capsule. 1 caps daily

 
Discharge Medications:
1. Amiodarone 200 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Calcium Carbonate 1500 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Furosemide 20 mg PO DAILY 
7. methenamine hippurate 1 gram oral BID 
8. Omeprazole 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Falls
Aortic stenosis
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
It was a pleasure caring for you during your recent 
hospitalization to ___. You were admitted for observation 
while your husband was undergoing a procedure. No changes were 
made to your medications. You were seen by physical therapy and 
they recommended you go home with help from your husband or a 
friend.
 
Followup Instructions:
___